US04696920
3-(3-Pyridyl)propyl chloride hydrochloride was prepared in quantitative yield by reacting 3-(3-pyridyl)propanol with phosphorus oxychloride in ethyl acetate at reflux temperature. The free base was generated by dissolving the hydrochloride in a 10% sodium hydroxide solution and extracting with an organic solvent (toluene or ether).

reactant | 3-(3-pyridyl)propanol | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | [OH-].[Na+]
product | 3-(3-Pyridyl)propyl chloride hydrochloride | quantitative yield | Cl.N1=CC(=CC=C1)CCCCl | InChI=1S/C8H10ClN.ClH/c9-5-1-3-8-4-2-6-10-7-8;/h2,4,6-7H,1,3,5H2;1H
